US04854935
Step 1: 2,4-dinitro-5-ethoxytoluol
2.5 g (12.5 mmol) of 2,4-dinitro-5-methylphenol (I. R. Gibbs and P. W. Robertson, J. Chem. Soc. (London) 105, 1885) are dissolved in 12.5 ml of dioxane, added to 1.5 ml (19 mmol) of 2-iodoethane and 3.5 ml (25 mmol) of triethylamine and heated for 24 hours to 80° C. The reaction mixture is then poured over ice. The yellow crystals that precipitate out are isolated by suction. 2.2 g (77% of theoretical) of the ethoxy compound, having a melting point of 92° to 93° C., are obtained.

reactant | 2,4-dinitro-5-methylphenol | 12.5 mmol, 2.5 g | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])C)O | C7H6N2O5
reactant | 2-iodoethane | 19 mmol, 1.5 ml | ICC | C2H5I
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 12.5 ml | O1CCOCC1 | C4H8O2
product | 2,4-dinitro-5-ethoxytoluol | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])OCC)C | C9H10N2O5
